US05854234
2,2,2-trichloro-N-(2-methylenebutyl)acetamide
Cis-2-pentene-1-ol was treated with NaH and trichloroacetonitrile followed by work up and treatment in refluxing xylene by the method of EXAMPLE 208 to produce the material.

reactant | Cis-2-pentene-1-ol | C(\C=C/CC)O | C5H10O
reactant | NaH | [H-].[Na+]
reactant | trichloroacetonitrile | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2,2-trichloro-N-(2-methylenebutyl)acetamide | ClC(C(=O)NCC(CC)=C)(Cl)Cl | C7H10Cl3NO
